US04661596
3,4-Dihydro-7-(2-quinolinylmethoxy)-1(2H)-naphthalenone
To a slurry of NaH (0.29 g, 12.25 mmol) in 25 mL dimethylformamide under nitrogen at 0° C. is added portionwise 7-hydroxy-1-tetralone (2.0 g, 12.33 mmol) over 5 minutes. After half an hour, 2-(chloromethyl)quinoline (2.2 g, 12.43 mmol) is added in 10 mL dimethylformamide. The ice bath is removed and the reaction mixture is stirred overnight. The solvent is then removed in vacuo and the residue is partitioned between 1N sodium hydroxide and methylene chloride. The organic layer is separated, dried over magnesium sulfate, evaporated down to an oil, and chromatographed on silica gel. Elution with 9-1 methylene chloride/ethyl acetate gives 2.0 g(54%). This material is recrystallized from acetonitrile to afford 1.3 g (35%) of yellow crystals, m.p. 98.5°-101.5° C.

reactant | NaH | 12.25 mmol, 0.29 g | [H-].[Na+]
reactant | 7-hydroxy-1-tetralone | 12.33 mmol, 2.0 g | OC1=CC=C2CCCC(C2=C1)=O | C10H10O2
reactant | 2-(chloromethyl)quinoline | 12.43 mmol, 2.2 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3,4-Dihydro-7-(2-quinolinylmethoxy)-1(2H)-naphthalenone | 1.3 g, 35% | N1=C(C=CC2=CC=CC=C12)COC1=CC=C2CCCC(C2=C1)=O | C20H17NO2
